US07176227B2
Synthesis of 4-amino-3-propylaminobenzoic acid methyl ester
In DMF (40 ml), methyl 3,4-diaminobenzoate (2.01 g) was dissolved and then the solution was added with potassium carbonate (2.00 g) and 1-iodopropane (1.4 ml), followed by stirring at room temperature for 22 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was dissolved in ethyl acetate and washed with water, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline solution and dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residue was then purified through silica gel column chromatography (hexane/ethyl acetate), thereby obtaining the subject compound (1.06 g).

reactant | methyl 3,4-diaminobenzoate | 2.01 g | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | potassium carbonate | 2.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 1.4 ml | ICCC | C3H7I
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 4-amino-3-propylaminobenzoic acid methyl ester | 1.06 g | COC(C1=CC(=C(C=C1)N)NCCC)=O | C11H16N2O2
